US06340759B1
(10-2) 1-Chloro-3-(4-methoxyphenyl)isoquinoline
3-(4-Methoxyphenyl)isoquinolin-1-one (1.70 g) was added to phosphorus oxychloride (10 ml), and the resulting mixture was heated at 110° C. for 3 hr. The reaction mixture was evaporated, and to the resulting residue were added ethyl acetate and water. The resulting organic layer was washed with water, an aqueous solution of sodium bicarbonate and brine, and then dried over magnesium sulfate. The solvent was evaporated, and the resulting residue was purified by silica gel column chromatography (ethyl acetate/hexane system), to give the title compound as a white powder (1.76 g, yield; 96%).

reactant | 3-(4-Methoxyphenyl)isoquinolin-1-one | 1.70 g | COC1=CC=C(C=C1)C=1NC(C2=CC=CC=C2C1)=O | C16H13NO2
reactant | phosphorus oxychloride | 10 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1-Chloro-3-(4-methoxyphenyl)isoquinoline | 1.76 g, yield; 96% | ClC1=NC(=CC2=CC=CC=C12)C1=CC=C(C=C1)OC | C16H12ClNO
